US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-methyl-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 2, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (30.0 mg, 0.107 mmol) and bromomethane (0.09 mL, 0.18 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (26.3 mg, 65%). EI-MS m/z 294 (M+) Rt (1.30 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.107 mmol, 30.0 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | bromomethane | 0.18 mmol, 0.09 mL | BrC | CH3Br
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-methyl-1-azoniabicyclo[2.2.1]heptane bromide | 26.3 mg, 65% | [Br-].OC(C12CC[N+](CC1)(C2)C)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C20H24NO.BrH/c1-21-14-12-19(16-21,13-15-21)20(22,17-8-4-2-5-9-17)18-10-6-3-7-11-18;/h2-11,22H,12-16H2,1H3;1H/q+1;/p-1
